US08207210B2
7.2 90 mg of tert-butyl 3-(3-chlorobenzoylamino)-5-[3-(2,5-difluorobenzyl)ureido]indazole-1-carboxylate are stirred for 16 hours with 3 ml of HCl/dioxane (4 M). The batch is evaporated and dried well. Purification of the residue by column chromatography on silica gel (eluent:heptane/EA 9:1) gives 23 mg of 1-[3-(3-chlorobenzoylamino)-1H-indazol-5-yl]-3-(2,5-difluorobenzyl)urea (“A21”) as a colourless powder (31%), MS-FAB (M+H+)=456;

reactant | tert-butyl 3-(3-chlorobenzoylamino)-5-[3-(2,5-difluorobenzyl)ureido]indazole-1-carboxylate | ClC=1C=C(C(=O)NC2=NN(C3=CC=C(C=C23)NC(=O)NCC2=C(C=CC(=C2)F)F)C(=O)OC(C)(C)C)C=CC1 | C27H24ClF2N5O4
reactant | HCl dioxane | 4 M, 3 ml | Cl.O1CCOCC1
product | 1-[3-(3-chlorobenzoylamino)-1H-indazol-5-yl]-3-(2,5-difluorobenzyl)urea | 23 mg, 31% | ClC=1C=C(C(=O)NC2=NNC3=CC=C(C=C23)NC(=O)NCC2=C(C=CC(=C2)F)F)C=CC1 | C22H16ClF2N5O2
